* NGSPICE file created from comparator_miyahara.ext - technology: gf180mcuC

.option scale=0.01u

.subckt comparator_miyahara o_outp o_outn gf180mcu_gnd I_INP I_INN vdd I_P_AMPLIFY
X0 vdd a_n2183_4056# m1_n2273_3656# vdd pfet_03v3 ad=237600 pd=12544.5 as=0 ps=0 w=100 l=28
X1 m1_n2273_3656# a_n2183_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X2 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X3 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X4 gf180mcu_gnd gf180mcu_gnd m1_n66_490# gf180mcu_gnd nfet_03v3 ad=195200 pd=11168.5 as=0 ps=0 w=100 l=28
X5 m1_n66_490# gf180mcu_gnd gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X6 vdd a_n3753_1803# o_outn vdd pfet_03v3 ad=0 pd=0 as=41600 ps=1808 w=400 l=28
X7 o_outn a_n3753_1803# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X8 o_outn a_n3753_1803# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X9 vdd a_n3753_1803# o_outn vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X10 a_n578_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X11 vdd I_P_AMPLIFY a_n578_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X12 vdd a_n2183_4056# m1_n2273_3656# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X13 m1_n2273_3656# a_n2183_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X14 a_n578_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X15 vdd I_P_AMPLIFY a_n578_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X16 gf180mcu_gnd gf180mcu_gnd m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X17 m1_n66_490# gf180mcu_gnd gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X18 vdd a_n578_4056# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X19 m1_n668_3591# a_n578_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X20 vdd a_n2183_4056# m1_n2273_3656# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X21 m1_n2273_3656# a_n2183_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X22 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X23 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X24 vdd a_n578_4056# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X25 m1_n668_3591# a_n578_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X26 vdd a_n2183_4056# m1_n2273_3656# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X27 m1_n2273_3656# a_n2183_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X28 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X29 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X30 vdd a_n578_4056# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X31 m1_n668_3591# a_n578_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X32 vdd a_n578_4056# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X33 m1_n668_3591# a_n578_4056# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X34 a_n2779_1802# a_n648_2443# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X35 m1_n668_3591# a_n648_2443# a_n2779_1802# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X36 a_n2779_1802# a_n648_2443# m1_n668_3591# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X37 m1_n668_3591# a_n648_2443# a_n2779_1802# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X38 a_n648_2443# a_n2779_1802# m1_n2273_3656# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X39 m1_n2273_3656# a_n2779_1802# a_n648_2443# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X40 a_n648_2443# a_n2779_1802# m1_n2273_3656# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X41 m1_n2273_3656# a_n2779_1802# a_n648_2443# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X42 a_n3753_1803# a_n2779_1802# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X43 a_n3753_1803# a_n2779_1802# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X44 vdd lib_inv2_0/a_n902_230# o_outp vdd pfet_03v3 ad=0 pd=0 as=41600 ps=1808 w=400 l=28
X45 o_outp lib_inv2_0/a_n902_230# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X46 o_outp lib_inv2_0/a_n902_230# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X47 vdd lib_inv2_0/a_n902_230# o_outp vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X48 gf180mcu_gnd lib_inv2_0/a_n902_230# o_outp gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=20800 ps=1008 w=200 l=28
X49 o_outp lib_inv2_0/a_n902_230# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X50 o_outp lib_inv2_0/a_n902_230# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X51 gf180mcu_gnd lib_inv2_0/a_n902_230# o_outp gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X52 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X53 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X54 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X55 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X56 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X57 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X58 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X59 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X60 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X61 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X62 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X63 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X64 m1_n668_3591# a_n578_4056# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X65 gf180mcu_gnd a_n578_4056# m1_n668_3591# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X66 a_n2779_1802# a_n648_2443# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X67 gf180mcu_gnd a_n648_2443# a_n2779_1802# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X68 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X69 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X70 a_n2779_1802# a_n578_4056# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X71 gf180mcu_gnd a_n578_4056# a_n2779_1802# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X72 gf180mcu_gnd gf180mcu_gnd m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X73 m1_n66_490# gf180mcu_gnd gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X74 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X75 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X76 m1_n2273_3656# a_n2183_4056# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X77 gf180mcu_gnd a_n2183_4056# m1_n2273_3656# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X78 gf180mcu_gnd a_n3753_1803# o_outn gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=20800 ps=1008 w=200 l=28
X79 o_outn a_n3753_1803# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X80 o_outn a_n3753_1803# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X81 gf180mcu_gnd a_n3753_1803# o_outn gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X82 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X83 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X84 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X85 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X86 a_n648_2443# a_n2183_4056# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X87 gf180mcu_gnd a_n2183_4056# a_n648_2443# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X88 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X89 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X90 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X91 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X92 a_n648_2443# a_n2779_1802# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X93 gf180mcu_gnd a_n2779_1802# a_n648_2443# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X94 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X95 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X96 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X97 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X98 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X99 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X100 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X101 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X102 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X103 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X104 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X105 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X106 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X107 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X108 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X109 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X110 gf180mcu_gnd I_P_AMPLIFY m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X111 m1_n66_490# I_P_AMPLIFY gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X112 lib_inv2_0/a_n902_230# a_n648_2443# vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=400 l=28
X113 lib_inv2_0/a_n902_230# a_n648_2443# gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=200 l=28
X114 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X115 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X116 a_n2183_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X117 vdd I_P_AMPLIFY a_n2183_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X118 gf180mcu_gnd gf180mcu_gnd m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X119 m1_n66_490# gf180mcu_gnd gf180mcu_gnd gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X120 a_n2183_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X121 vdd I_P_AMPLIFY a_n2183_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X122 a_n578_4056# I_INN m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X123 m1_n66_490# I_INN a_n578_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X124 a_n2183_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X125 vdd I_P_AMPLIFY a_n2183_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X126 a_n2183_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X127 vdd I_P_AMPLIFY a_n2183_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X128 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X129 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X130 a_n578_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X131 vdd I_P_AMPLIFY a_n578_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X132 a_n2183_4056# I_INP m1_n66_490# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X133 m1_n66_490# I_INP a_n2183_4056# gf180mcu_gnd nfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X134 a_n578_4056# I_P_AMPLIFY vdd vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
X135 vdd I_P_AMPLIFY a_n578_4056# vdd pfet_03v3 ad=0 pd=0 as=0 ps=0 w=100 l=28
C0 vdd a_n2183_4056# 3.01fF
C1 vdd I_P_AMPLIFY 4.77fF
C2 vdd a_n578_4056# 3.05fF
C3 a_n648_2443# a_n2779_1802# 2.02fF
C4 vdd gf180mcu_gnd 52.19fF
C5 I_INN gf180mcu_gnd 2.58fF
C6 I_INP gf180mcu_gnd 2.42fF
C7 m1_n66_490# gf180mcu_gnd 4.98fF $ **FLOATING
C8 I_P_AMPLIFY gf180mcu_gnd 5.58fF
.ends
